US07452911B2
3.14a 2-hydroxy-5-iodo-3-methyl-benzoic acid
14.9 mL (24.1 mmol) sodium hypochlorite solution (10 percent by weight in water) is added dropwise to a solution of 4.0 g (24.1 mmol) methyl 2-hydroxy-3-methyl-benzoate, 3.6 g (24.1 mmol) NaI, 0.96 g (24.1 mmol) NaOH in 100 mL MeOH at −5° C. over 40 min. The reaction is stirred for 30 min at −5° C. and 5 days at RT. The solvent is eliminated i.vac. and the residue is taken up in 80 mL water and 50 mL DCM. After the organic phase has been saturated with NaCl it is extracted twice with DCM. The combined organic extracts are filtered and the solvent is eliminated i.vac. The product is further reacted without any more purification.

reactant | sodium hypochlorite | 24.1 mmol, 14.9 mL | Cl[O-].[Na+]
reactant | methyl 2-hydroxy-3-methyl-benzoate | 24.1 mmol, 4.0 g | OC1=C(C(=O)OC)C=CC=C1C | C9H10O3
reactant | NaI | 24.1 mmol, 3.6 g | [Na+].[I-]
reactant | NaOH | 24.1 mmol, 0.96 g | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | MeOH | 100 mL | CO | CH4O
solvent | water | 80 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-5-iodo-3-methyl-benzoic acid | OC1=C(C(=O)O)C=C(C=C1C)I | C8H7IO3
